US08802864B2
a) 5-bromo-2,3-dihydro-1H-indene
A solution of 5-bromo-2,3-dihydro-1H-inden-1-one (4.74 mmol) in HF-pyridine (5 mL) in a 100 mL Nalgene round bottomed flask was cooled to 0° C. and treated with triethylsilane (11.85 mmol) over a period of 5 min. The reaction solution was allowed to warm to room temperature and was stirred for 3 h. Analysis by LCMS indicated only partial conversion of the starting material, so the reaction contents were cooled to 0° C. and treated with more triethylsilane (11.85 mmol). The reaction solution was allowed to warm to room temperature and was stirred for 2 days. The reaction was quenched with 50 mL of ice water and after one hour was further diluted with an additional 50 mL of water. The mixture was extracted with dichloromethane. The resulting organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting residue was purified by silica gel chromatography (hexanes) to afford the title compound as a clear oil (65%). 1H NMR (400 MHz, CDCl3) δ ppm 7.35 (s, 1H) 7.23 (d, J=2.02 Hz, 1H) 7.08 (d, J=8.08 Hz, 1H) 2.79-2.96 (m, 4H) 2.05-2.11 (m, 2H).

reactant | 5-bromo-2,3-dihydro-1H-inden-1-one | 4.74 mmol | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | triethylsilane | 11.85 mmol | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 11.85 mmol | C(C)[SiH](CC)CC | C6H16Si
solvent | HF-pyridine | 5 mL | C1=CC=NC=C1.F
product | 5-bromo-2,3-dihydro-1H-indene | 65% | BrC=1C=C2CCCC2=CC1 | C9H9Br
